US06559168B2
trans-(4-Acetyl-cyclohexylmethyl)-carbamic Acid Benzyl Ester of Formula (9.0.14)
A 500 mL flask was charged with 15.2 g (45.4 mmol) trans-[4-(methoxy-methyl-carbamoyl)-cyclohexylmethyl]-carbamic acid benzyl ester and 350 mL anhydrous THF. The soluton was cooled to 0° C. then 33.3 mL (99.9 mmol) 3M CH3MgCl was added dropwise over 10 minutes. The reaction mixture was then stirred for 1 hour at 0° C. then quenched with 20 mL 2N acetic acid and poured into 300 mL water. The aqueous was extracted with ethyl acetate (3×200 mL) and the combined organics were washed with 0.5M HCl (1×100 mL), water (1×100 mL), brine (1×100 mL), dried over Na2SO4 and concentrated to a solid. The solid was recrystalized from IPE and filtered to give 5.5 g of a white solid.

reactant | trans-[4-(methoxy-methyl-carbamoyl)-cyclohexylmethyl]-carbamic acid benzyl ester | 45.4 mmol, 15.2 g | C(C1=CC=CC=C1)OC(NC[C@@H]1CC[C@H](CC1)C(N(C)OC)=O)=O | C18H26N2O4
reactant | CH3MgCl | 99.9 mmol, 3M, 33.3 mL | C[Mg]Cl
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | trans-(4-Acetyl-cyclohexylmethyl)-carbamic Acid Benzyl Ester | 5.5 g | C(C1=CC=CC=C1)OC(NC[C@@H]1CC[C@H](CC1)C(C)=O)=O | C17H23NO3
